US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-(4-morpholinocyclohexyl)phenyl)-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (8 eq), ethylene glycol/Et2O (1/2 v/v, 30 ml), 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-(4-morpholinocyclohexyl)phenyl)-1H-pyrrol-2(5H)-one (0.350 g, 0.74 mmol, 1 eq) and MeOH (10 ml); yield: 0.040 g (11%); MS m/z: 487.2 [M+H]+; 1H-NMR: (400 MHz, CDCl3) δ: 12.34 (s, 1H), 8.13 (d, 1H), 7.70 (d, 1H), 7.45 (d, 2H), 7.17 (d, 5H), 5.75 (s, 1H), 3.95 (s, 3H), 3.56 (d, 4H), 2.35 (d, 4H), 2.1 (d, 1H), 1.90 (d, 2H), 1.69 (d, 5H), 1.4 (d, 4H); HPLC (METHOD [A]): rt 7.84 min (98.72%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 8 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 30 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-(4-morpholinocyclohexyl)phenyl)-1H-pyrrol-2(5H)-one | 0.74 mmol, 0.350 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)C2CCC(CC2)N2CCOCC2)C)O)=O | C28H32N4O3
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-(4-morpholinocyclohexyl)phenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)C2CCC(CC2)N2CCOCC2)C)OC)=O | C29H34N4O3
